US09353081B2
[A] Ethyl 5-bromo-4-methylnicotinate
To a stirred light brown suspension of 5-bromo-4-methylnicotinic acid (10.00 g, 46.3 mmol) and ethanol (2.35 g, 2.97 mL, 50.9 mmol) in CH2Cl2 (231 mL) at 0° C. under Argon was added EDCI (10.9 g, 55.5 mmol) and DMAP (566 mg, 4.63 mmol), stirring was continued over night and the reaction mixture was allowed to warm up to RT. The reaction mixture was poured on aq. 10% KH2PO4 solution followed by extraction with AcOEt (3×). The organic phases were washed once with aq. 10% KH2PO4, aq. sat. NaHCO3 and with aq. sat. NaCl solution. The combined organic phases were dried (Na2SO4), filtered and evaporated to afford the title compound (9.49 g, 84%) as brown solid. MS: 244.0 (M+H+, 1Br).

reactant | 5-bromo-4-methylnicotinic acid | 46.3 mmol, 10.00 g | BrC=1C=NC=C(C(=O)O)C1C | C7H6BrNO2
reactant | ethanol | 50.9 mmol, 2.97 mL, 2.35 g | C(C)O | C2H6O
reactant | EDCI | 55.5 mmol, 10.9 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | CH2Cl2 | 231 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.63 mmol, 566 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl 5-bromo-4-methylnicotinate | 9.49 g, 84% | BrC=1C=NC=C(C(=O)OCC)C1C | C9H10BrNO2
